US07855297B2
By the reaction and treatment in the same manner as in Example 271 using 5-benzyloxy-8-fluoro-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.79 g) and 2-(chloromethyl)pyridine hydrochloride (0.49 g) as starting materials, 5-benzyloxy-8-fluoro-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.69 g) was obtained.

reactant | 5-benzyloxy-8-fluoro-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.79 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)F)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C | C30H31FN4O2
reactant | 2-(chloromethyl)pyridine hydrochloride | 0.49 g | Cl.ClCC1=NC=CC=C1
product | 5-benzyloxy-8-fluoro-N-(6-isopropylpyridin-3-yl)-N-{[1-(2-pyridylmethyl)pyrazol-4-yl]methyl}-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.69 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=C(C=C1)F)C(=O)N(CC=1C=NN(C1)CC1=NC=CC=C1)C=1C=NC(=CC1)C(C)C | C36H36FN5O2
